US07459263B2
First, 2-(4-butoxyphenoxy)benzoic acid was prepared. A stirred mixture of 2-chlorobenzoic acid (10.0 g, 64 mmol), 4-butoxyphenol (12.7 g, 77 mmol), potassium carbonate (17.6 g, 128 mmol), copper powder (0.24 g, 3.8 mmol), copper (I) iodide (0.20 g, 1.3 mmol), dithioerithritol (0.20 g, 1.3 mmol), and 75 mL of N,N-dimethylformamide was heated at reflux for 5 h and then cooled to ambient. The reaction mixture was poured onto a mixture of 300 g of ice plus 100 mL of 10% aqueous HCl. The precipitated product was extracted into diethyl ether. The product was purified by extraction into 5% aqueous NaOH, followed by acidification with concentrated HCl. The precipitate was collected, washed with water, and dried in vacuo over CaSO4 to provide 8.27 g (45% of theory) of 2-(4-butoxyphenoxy)benzoic acid as a brown powder.

reactant | 2-chlorobenzoic acid | 64 mmol, 10.0 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 4-butoxyphenol | 77 mmol, 12.7 g | C(CCC)OC1=CC=C(C=C1)O | C10H14O2
reactant | potassium carbonate | 128 mmol, 17.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 100 mL | Cl | ClH
catalyst | copper | 3.8 mmol, 0.24 g | [Cu] | Cu
catalyst | copper (I) iodide | 1.3 mmol, 0.20 g | [Cu]I
solvent | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 2-(4-butoxyphenoxy)benzoic acid | 8.27 g, 45% | C(CCC)OC1=CC=C(OC2=C(C(=O)O)C=CC=C2)C=C1 | C17H18O4
